US05811389
A solution of 3 g (6.55 mmol) of 5-[(1-tert-butoxyformamido)methyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetic acid in 65 ml of methylene chloride was cooled to 20° and treated with 1.1 ml (10.62 mmol) of benzyl alcohol. After the addition of 20 mg of 4-dimethylaminopyridine a solution of 1.5 g (7.27 mmol) of dicyclohexylcarbodiimide in 16 ml of methylene chloride was added dropwise, whereupon the mixture was warmed to room temperature and was stirred for 3 hours. The precipitated dicyclohexylurea was filtered off and washed with a small amount of methylene chloride. The filtrate was washed with sodium bicarbonate solution and water, dried over sodium sulphate and concentrated. The residue remaining was chromatographed on silica gel with hexane/ethyl acetate, whereby 2.9 g of benzyl 5-[(1-tert-butoxyformamido)methyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate were obtained as a colourless powder m.p. of 139°-141°; IR 3443, 2972, 2930, 1724, 1605, 1498 cm-1.

reactant | 5-[(1-tert-butoxyformamido)methyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetic acid | 6.55 mmol, 3 g | C(C)(C)(C)OC(=O)NCC1=C2OC=3C(=C(C=CC3C(C2=CC=C1OC)(C)C)OC)CC(=O)O | C25H31NO7
reactant | benzyl alcohol | 10.62 mmol, 1.1 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | dicyclohexylcarbodiimide | 7.27 mmol, 1.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | benzyl 5-[(1-tert-butoxyformamido)methyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate | 2.9 g | C(C)(C)(C)OC(=O)NCC1=C2OC=3C(=C(C=CC3C(C2=CC=C1OC)(C)C)OC)CC(=O)OCC1=CC=CC=C1 | C32H37NO7
